US06916819B2
A mixture of thiazol-2-ylhydrazine (2.2 g, 19.1 mmol) and 3,5,5-triethoxy-pent-2-enoic acid ethyl ester (70% purity, 7.1 g, 19.1 mmol) is refluxed in acetic acid overnight. Acetic acid is removed. To the residue is added NaHCO3 (aq.) (40 mL) and ethyl acetate (100 mL). The insoluble material is filtered. The organic layer is dried and solvent removed. The crude is subjected to column separation (hexane/ethyl acetate 3:1) to give (2-thiazol-2-yl-2H-pyrazol-3-yl)-acetic acid ethyl ester as an oil.

reactant | thiazol-2-ylhydrazine | 19.1 mmol, 2.2 g | S1C(=NC=C1)NN | C3H5N3S
reactant | 3,5,5-triethoxy-pent-2-enoic acid ethyl ester | 19.1 mmol, 7.1 g | C(C)OC(C=C(CC(OCC)OCC)OCC)=O | C13H24O5
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (2-thiazol-2-yl-2H-pyrazol-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1N(N=CC1)C=1SC=CN1)=O | C10H11N3O2S
